US07595321B2
3-Amino-N-(2-morpholin-4-ylethyl)-6-[4-(pyrrolidin-1-ylsulfonyl)phenyl]pyrazine-2-carboxamide hydrochloride
n-Butyllithium (1.6 mL, 2.6 mmol) was added dropwise over 10 min to a cooled solution (−78° C.) of triisopropyl borate (0.6 mL, 2.6 mmol), and 1-[(4-bromophenyl)sulfonyl]pyrrolidine (0.251 g, 0.86 mmol) in anhydrous tetrahydrofuran (10 mL) under an atmosphere of nitrogen. The resulting mixture was stirred at −78° C. for 1 h and the mixture was allowed to warm up to room temperature. Aqueous HCl (3 M, 1.4 mL, 4.3 mmol) was added and the mixture was stirred for 10 min followed by the addition of sodium carbonate (0.9 g, 8.6 mmol) and the stirring was continued for another 20 min. 3-Amino-6-bromo-N-(2-morpholin-4-ylethyl)pyrazine-2-carboxamide (0.20 g, 0.61 mmol), and tetrahydrofuran (4 mL) were added followed by addition of Pd(dppf)Cl2 (28 mg, 0.03 mmol) and the resulting mixture was heated at 65° C. for 17 h. The mixture was allowed to return to room temperature and the solvent was evaporated. The resulting residue was suspended in methanol, silica was added, and the solvent was evaporated. Purification by column chromatography on silica using methylene chloride/methanol/triethyl amine, (95:5:0.1), as the eluent gave the free base that was subsequently dissolved in hot methanol and treated with HCl (1 M in diethyl ether). The formed precipitate was filtered off and dried in vacuo to give 72 mg (26% yield) of the title compound as a yellow solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.24 (br s, 1H), 9.28 (m, 1H), 8.98 (s, 1H), 8.49 (d, J=8 Hz, 2H), 7.83 (d, J=8 Hz, 2H), 3.97 (m, 2H), 3.87 (d, J=12 Hz, 2H), 3.78 (m, 2H), 3.55 (d, J=12 Hz, 2H), 3.15 (m, 6H), 1.65 (m, 4H); MS (ES) m/z 461 (M++1).

reactant | n-Butyllithium | 2.6 mmol, 1.6 mL | C(CCC)[Li]
reactant | triisopropyl borate | 2.6 mmol, 0.6 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 1-[(4-bromophenyl)sulfonyl]pyrrolidine | 0.86 mmol, 0.251 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C10H12BrNO2S
reactant | HCl | 4.3 mmol, 3 M, 1.4 mL | Cl | ClH
reactant | sodium carbonate | 8.6 mmol, 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-Amino-6-bromo-N-(2-morpholin-4-ylethyl)pyrazine-2-carboxamide | 0.61 mmol, 0.20 g | NC=1C(=NC(=CN1)Br)C(=O)NCCN1CCOCC1 | C11H16BrN5O2
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 28 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3-Amino-N-(2-morpholin-4-ylethyl)-6-[4-(pyrrolidin-1-ylsulfonyl)phenyl]pyrazine-2-carboxamide hydrochloride | 72 mg, 26% yield | Cl.NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)N1CCCC1)C(=O)NCCN1CCOCC1 | InChI=1S/C21H28N6O4S.ClH/c22-20-19(21(28)23-7-10-26-11-13-31-14-12-26)25-18(15-24-20)16-3-5-17(6-4-16)32(29,30)27-8-1-2-9-27;/h3-6,15H,1-2,7-14H2,(H2,22,24)(H,23,28);1H
